US07902181B2
a) 5-Bromo-3-(2-methoxyethyl)benzo[d]oxazol-2(3H)-one
A mixture of 5-bromobenzo[d]oxazol-2(3H)-one (2.06 g), 1-bromo-2-methoxyethane (1.085 mL) and potassium carbonate (3.99 g) in acetonitrile (15 mL) was heated at 60° C. for 16 h. Water was added and the mixture was extracted with ethyl acetate (3 times). The organic layers were dried over magnesium sulfate, evaporated and purified by flash silica chromatography eluting with 5:1 isohexane/acetone to give the subtitle compound (1.359 g).

reactant | 5-bromobenzo[d]oxazol-2(3H)-one | 2.06 g | BrC=1C=CC2=C(NC(O2)=O)C1 | C7H4BrNO2
reactant | 1-bromo-2-methoxyethane | 1.085 mL | BrCCOC | C3H7BrO
reactant | potassium carbonate | 3.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 5-Bromo-3-(2-methoxyethyl)benzo[d]oxazol-2(3H)-one | 1.359 g | BrC=1C=CC2=C(N(C(O2)=O)CCOC)C1 | C10H10BrNO3
